US08022076B2
A stirred solution of 2-{5-phenyl-4-[(pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}malonic acid diethyl ester (0.32 g, 0.672 mmol) in anhydrous tetrahydrofuran (10 ml) was cooled in an ice-bath and treated, under a nitrogen atmosphere, with diisobutylaluminium hydride (1M solution in hexane, 5.52 ml, 5.52 mmol) over 15 minutes. The reaction mixture was allowed to warm up and left to stir at ambient temperature for 3 hours. The resultant mixture was then cooled in an ice-bath and quenched by the slow addition of methanol (5 ml) followed by water (10 ml). The mixture was then diluted with 2M sodium hydroxide solution (50 ml) and extracted with ethyl acetate (3×50 ml). The combined organic extracts were dried (MgSO4) and the solvent removed in vacuo to give the crude product. Purification by flash chromatography (silica) eluting with 5% methanol in dichloromethane gave 2-{5-phenyl-4-[(pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}propane-1,3-diol as a pale yellow solid (0.08 g), m.p. 137°-139° C.

reactant | 2-{5-phenyl-4-[(pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}malonic acid diethyl ester | 0.672 mmol, 0.32 g | C(C)OC(C(C(=O)OCC)C=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)NCC2=NC=CC=C2)=O | C25H24N4O4S
reactant | diisobutylaluminium hydride | 5.52 mmol, 1M, 5.52 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-{5-phenyl-4-[(pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}propane-1,3-diol | 0.08 g | C1(=CC=CC=C1)C1=CSC=2N=C(N=C(C21)NCC2=NC=CC=C2)C(CO)CO | C21H20N4O2S
